US04992431
3.5 ml of a methanolic solution of sodium acetate and 30 ml of ethanol were added to a solution of 1 g of the syn isomer of 3-methylthiomethyl-7-[2-(2-amino-4-thiazolyl)-2-hydroxyimino-acetamido]-ceph-3-eme-4-carboxylic acid in 2 ml of dimethylformamide and the mixture was vacuum filtered. The product was rinsed with ethanol and then with ether to obtain 0.804 g of syn isomer of sodium 3-methylthiomethyl-7-[2-(2-amino-4-thiazolyl)-2-hydroxyimino-acetamido]-ceph-3-eme-4-carboxylate.

reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | 3-methylthiomethyl-7-[2-(2-amino-4-thiazolyl)-2-hydroxyimino-acetamido]-ceph-3-eme-4-carboxylic acid | CSCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NO)C=2N=C(SC2)N)=O)=O | C14H15N5O5S3
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | sodium 3-methylthiomethyl-7-[2-(2-amino-4-thiazolyl)-2-hydroxyimino-acetamido]-ceph-3-eme-4-carboxylate | CSCC=1CS[C@H]2N(C1C(=O)[O-])C(C2NC(C(=NO)C=2N=C(SC2)N)=O)=O.[Na+] | InChI=1S/C14H15N5O5S3.Na/c1-25-2-5-3-26-12-8(11(21)19(12)9(5)13(22)23)17-10(20)7(18-24)6-4-27-14(15)16-6;/h4,8,12,24H,2-3H2,1H3,(H2,15,16)(H,17,20)(H,22,23);/q;+1/p-1/t8?,12-;/m1./s1
